US06093732
N-((4-Chlorophenyl)methyl)-6,7-difluoro-4-hydroxy-8-methoxy-3-quinolinecarboxamide
N-((4-Chlorophenyl)methyl)-4-hydroxy-6,7,8-trifluoro-3-quinolinecarboxamide (366 mg) from Example No. 15 and sodium hydride (60% dispersion, 40 mg) are dissolved in DMF (10 mL) and to the mixture is added methanol (200 μL). Additional sodium hydride (40 mg) is added, and the mixture is heated at 140° C. for 1 h. The reaction mixture is allowed to cool to rt, poured into water (50 mL), acidified with acetic acid (10 mL), and is filtered. The crude product is purified by column chromatography (hexane/2-propanol, 95/5) to afford 68 mg of the title compound as a white solid.

reactant | N-((4-Chlorophenyl)methyl)-4-hydroxy-6,7,8-trifluoro-3-quinolinecarboxamide | 366 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C(=C(C=C2C1O)F)F)F | C17H10ClF3N2O2
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | methanol | 200 μL | CO | CH4O
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-((4-Chlorophenyl)methyl)-6,7-difluoro-4-hydroxy-8-methoxy-3-quinolinecarboxamide | 68 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C(=C(C=C2C1O)F)F)OC | C18H13ClF2N2O3
